US07674804B2
Piperidin-4-yl-(9H-purin-6-yl)-amine dihydrochloride
A solution of 4-(9H-purin-6-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (0.89 g, 2.8 mmol) in 4 M HCl in dioxane (50 mL) was stirred at rt for 1 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 219.4 [M+H]+.

reactant | 4-(9H-purin-6-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 2.8 mmol, 0.89 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=C2N=CNC2=NC=N1 | C15H22N6O2
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | Piperidin-4-yl-(9H-purin-6-yl)-amine dihydrochloride | Cl.Cl.N1CCC(CC1)NC1=C2N=CNC2=NC=N1 | InChI=1S/C10H14N6.2ClH/c1-3-11-4-2-7(1)16-10-8-9(13-5-12-8)14-6-15-10;;/h5-7,11H,1-4H2,(H2,12,13,14,15,16);2*1H
